US05189212
Melting points (mp) were obtained on a capillary melting point apparatus and are uncorrected. Elemental analyses of all compounds prepared were within ±0.4% of calculated theoretical values. Reaction progress and purity of products were checked by analytical TLC using 0.2 mm silica gel plastic backed layers, and viewed under light of 254 nm wavelength. Proton NMR spectra were obtained at 90 mHz and EIMS were obtained using a direct ion probe. 4-(2-Bromoethoxy)-4'-hydroxybenzophenone was prepared by acylation of 2-phenoxyethyl bromide with 4-hydroxybenzoic acid: mp 136°-138° C.

reactant | 2-phenoxyethyl bromide | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
product | 4-(2-Bromoethoxy)-4'-hydroxybenzophenone | BrCCOC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C15H13BrO3
